US05362878
N-(2,4,6-trimethoxyphenyl)-N'-[4-(2,2-dimethylpropyl)phenylmethyl]-N-heptylurea
The title compound was prepared according to the procedure of Example 97, but using 760 mg (3.63 mmole) 2,4,6-trimethoxyphenylisocyanate, 1.0 g (3.63 mmole) 4-(2,2-dimethylpropyl)benzylamine, and 20 ml methylene chloride. There was obtained 1.25 g product.

reactant | 2,4,6-trimethoxyphenylisocyanate | 3.63 mmole, 760 mg | COC1=C(C(=CC(=C1)OC)OC)N=C=O | C10H11NO4
reactant | 4-(2,2-dimethylpropyl)benzylamine | 3.63 mmole, 1.0 g | CC(CC1=CC=C(CN)C=C1)(C)C | C12H19N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(2,4,6-trimethoxyphenyl)-N'-[4-(2,2-dimethylpropyl)phenylmethyl]-N-heptylurea | 71% yield | COC1=C(C(=CC(=C1)OC)OC)N(C(=O)NCC1=CC=C(C=C1)CC(C)(C)C)CCCCCCC | C29H44N2O4
